US06403814B1
To a solution of 3-benzyloxy-4-propoxy-5-iodo benzaldehyde (25.5 g, 0.064 mol) in DMF (155 ml) was added sodium cyanide (0.78 g, 0.016 mol) and stirred at room temperature for 45 min under nitrogen atmosphere. Ethyl acrylate (5.21 g, 0.057 mol) in DMF (30 ml) was added slowly and stirred at room temperature for 30-40 mints. Ethyl acetate (185 ml) and 15% NaCl solution were added to the reaction mixture and the two layers were separated. The aqueous phase was extracted with ethyl acetate (250 ml). The combined organic extracts were washed with saturated aqueous NaHCO3 (125 ml) followed by 5% aqueous NaCl (180 ml). The ethyl acetate layer was dried Na2SO4), filtered and concentrated. The crude product was purified on silica gel column using ethyl acetate:light petroleum (1:12) as eluent to give ethyl-4-(3-benzyloxy 4-propoxy-5-iodophenyl)-4-oxo-1-butanoate as a syrup (23.80 g, 74%). TLC: Ethyl acetate:light petroleum (1:9), Rf=0.4; 1H NMR (CDCl3, 200 MHz): δ 1.05 (t, J=7.4 Hz, 3H), 1.3 (t, J=6.97 Hz, 3H) 1.78 (m, 2H), 2.7 (t, J=6.5 Hz, 2H), 3.1 (t, J=6.5 Hz, 2H), 4.06 (t, J=5.6 Hz, 2H), 4.18(q, J=7.1 Hz, 2H), 5.12 (s, 2H), 7.33-7.43 (m, 5H), 7.58 (d, J=1.62 Hz, 1H), 7.97 (d, J=1.62 Hz, 1H); IR (neat): 2970, 2930, 1735, 1690, 1585, 1550 cm−1

reactant | 3-benzyloxy-4-propoxy-5-iodo benzaldehyde | 0.064 mol, 25.5 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1OCCC)I | C17H17IO3
reactant | sodium cyanide | 0.016 mol, 0.78 g | [C-]#N.[Na+]
reactant | Ethyl acrylate | 0.057 mol, 5.21 g | C(C=C)(=O)OCC | C5H8O2
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 155 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 185 ml | C(C)(=O)OCC | C4H8O2
product | ethyl-4-(3-benzyloxy 4-propoxy-5-iodophenyl)-4-oxo-1-butanoate | 23.80 g, 74% | C(C)OC(CCC(=O)C1=CC(=C(C(=C1)I)OCCC)OCC1=CC=CC=C1)=O | C22H25IO5
